* C:\Users\hoppeb\Documents\GitHub\BatteryModeling\Cell Charger\SynchronousBuckConverter_RM.asc
V1 N001 0 100 Rser=0
M1 N001 Vs1 N002 N002 NMOS
L1 Vout N002 1.3m
C1 Vout 0 16.7µ
R1 Vout 0 1000
Vs1 Vs1 0 PULSE(0 150 0 .1n .1n 5u 10u)
V2 +5 0 5
V3 -5 0 -5
Vs2 Vs2 0 PULSE(150 0 0 .1n .1n 5u 10u)
M2 N002 Vs2 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hoppeb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 100m 0
.backanno
.end
